US08536176B2
(1) N-(5-Bromopyridin-2-yl)-4-methanesulfonylbenzamide
To a solution of 4-methanesulfonylbenzoic acid (100 mg, 0.50 mmol) and 2-amino-5-bromopyridine (104 mg, 0.60 mmol) in dry dichloromethane (10 mL) was added 4-(dimethylamino)pyridine (67 mg, 0.55 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (105 mg, 0.55 mmol). The mixture was stirred at room temperature overnight under N2, diluted with water (10 mL) and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/ethyl acetate=3/1) to give the title compound as a white crystal (56 mg, yield 32%).

reactant | 4-methanesulfonylbenzoic acid | 0.50 mmol, 100 mg | CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H8O4S
reactant | 2-amino-5-bromopyridine | 0.60 mmol, 104 mg | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.55 mmol, 105 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 0.55 mmol, 67 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 10 mL | O | H2O
product | N-(5-Bromopyridin-2-yl)-4-methanesulfonylbenzamide | 56 mg, yield 32% | BrC=1C=CC(=NC1)NC(C1=CC=C(C=C1)S(=O)(=O)C)=O | C13H11BrN2O3S
